US05278162
1,3-Dihydro-1-(4-chlorophenyl)-3-(3-pyridinylmethyl)-3-(4-pyridinylmethyl)-2H-pyrrolo[2,3-b]pyridin-2-one Dihydrochloride
A mixture of 1,3-dihydro-1-(4-chlorophenyl)-3-(4-pyridinylmethyl)-2H-pyrrolo[2,3-b]pyridin-2-one (3.0 g, 8.93 mmol) and 20 ml 1N NaOH was treated with enough MeOH to effect solution. The mixture was treated dropwise with 3-picolyl chloride hydrochloride (1.6 g, 9.82 mmol) in 10 ml water. The mixture was stirred at room temperature for 2 h, and treated with an additional 20 ml IN NaOH. The mixture was stirred at room temperature for 24 h and concentrated in vacuo. The residue was partitioned between 200 ml CH2Cl2, washed with brine, dried over MgSO4, filtered, and treated with 20 ml 1N HCl/Et2O. The resulting precipitate was collected by filtration, washed with ether, and dried to give the desired product in 90% (4.0 g) yield; mp 208°-211° C., dec.; IR(nujol): 1720 cm-1 (CO); 1H NMR(DMSOd6TMS): d 3.65 [m, 2H, CH2 -(3-Pyr)], 3.71-3.91 [q, 2H, CH2 -(4-Pyr)], [7.06 (d, 2H), 7.22 (m, 1H), 7.53 (d, 2H), 7.60 (d, 2H), 7.85 (dd, 1H), 8.04 (dd, 2H), 8.22 (d, 1H), 8.52 (s, 1H), 8.84 (d, 3H), Ar]; mass spec m/e 427 (M+1).

reactant | 1,3-dihydro-1-(4-chlorophenyl)-3-(4-pyridinylmethyl)-2H-pyrrolo[2,3-b]pyridin-2-one | 8.93 mmol, 3.0 g | ClC1=CC=C(C=C1)N1C(C(C=2C1=NC=CC2)CC2=CC=NC=C2)=O | C19H14ClN3O
reactant | MeOH | CO | CH4O
reactant | 3-picolyl chloride hydrochloride | 9.82 mmol, 1.6 g | Cl.N1=CC(=CC=C1)CCl
solvent | water | 10 ml | O | H2O
solvent | NaOH | [OH-].[Na+]
solvent | NaOH | 1N, 20 ml | [OH-].[Na+]
product | 1,3-Dihydro-1-(4-chlorophenyl)-3-(3-pyridinylmethyl)-3-(4-pyridinylmethyl)-2H-pyrrolo[2,3-b]pyridin-2-one Dihydrochloride | Cl.Cl.ClC1=CC=C(C=C1)N1C(C(C=2C1=NC=CC2)(CC2=CC=NC=C2)CC=2C=NC=CC2)=O | InChI=1S/C25H19ClN4O.2ClH/c26-20-5-7-21(8-6-20)30-23-22(4-2-12-29-23)25(24(30)31,15-18-9-13-27-14-10-18)16-19-3-1-11-28-17-19;;/h1-14,17H,15-16H2;2*1H
